US04082843
3-(3-amino-2-methylbenzoyl)propionic acid was diazotised in a solution of sulphuric acid with sodium nitrite, and the diazonium salt solution was added dropwise to boiling aqueous sulphuric acid to give 3-(3-hydroxy-2-methylbenzoyl)proprionic acid.

reactant | 3-(3-amino-2-methylbenzoyl)propionic acid | NC=1C(=C(C(=O)CCC(=O)O)C=CC1)C | C11H13NO3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
product | 3-(3-hydroxy-2-methylbenzoyl)proprionic acid | OC=1C(=C(C(=O)CCC(=O)O)C=CC1)C | C11H12O4
